US09447078B2
Preparation of 3-amino-1-(6-((tetrahydro-2H-pyran-4-yl)methoxy)pyridin-2-yl)propan-1-ol
Reduction of 3-oxo-3-(6-((tetrahydro-2H-pyran-4-yl)methoxy)pyridin-2-yl)propanenitrile by LiAlH4 following the method used in Example 2 gives Example 38.

reactant | 3-oxo-3-(6-((tetrahydro-2H-pyran-4-yl)methoxy)pyridin-2-yl)propanenitrile | O=C(CC#N)C1=NC(=CC=C1)OCC1CCOCC1 | C14H16N2O3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 3-amino-1-(6-((tetrahydro-2H-pyran-4-yl)methoxy)pyridin-2-yl)propan-1-ol | NCCC(O)C1=NC(=CC=C1)OCC1CCOCC1 | C14H22N2O3
